US04141990
To a solution of 25 g (0.0875 mole) of 2-bromo-5-methyl-3-phenylbenzofuran and 16.5 g of cyclohexene-4-carboxylic acid in 150 ml of acetic acid is added 17.5 g of sodium nitrite, then 17.5 ml of nitric acid is added dropwise with stirring. The mixture is stirred at about 25° C. for about three hours, then poured onto ice. The mixture is then extracted with diethyl ether. The ether solution is washed with 10% sodium bicarbonate solution, saturated sodium carbonate solution and dried. The dried solution is evaporated under vacuum to provide a yellow residue. The residue is recrystallized from carbon tetrachloride, then cyclohexane to provide yellow crystals of 5-methyl-2-nitro-3-phenylbenzofuran, m.p. 144.5°-146° C.

reactant | 2-bromo-5-methyl-3-phenylbenzofuran | 0.0875 mole, 25 g | BrC=1OC2=C(C1C1=CC=CC=C1)C=C(C=C2)C | C15H11BrO
reactant | cyclohexene-4-carboxylic acid | 16.5 g | C1=CCC(CC1)C(=O)O | C7H10O2
reactant | sodium nitrite | 17.5 g | N(=O)[O-].[Na+]
reactant | nitric acid | 17.5 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 5-methyl-2-nitro-3-phenylbenzofuran | CC=1C=CC2=C(C(=C(O2)[N+](=O)[O-])C2=CC=CC=C2)C1 | C15H11NO3
